### PR TITLE
fix: replace bad simp lemmas for Id

### PR DESCRIPTION
**Pull request by sgraf812**
This PR reworks the simp set around the Id monad.

In particular, it stops encoding the "defeq abuse" of Id X = X in the statements of theorems, instead using Id.run and pure to pass back and forth between these two spellings.

This fixes the problem with the current simp set where Id.run (pure x) is simplified to Id.run x, instead of the desirable x.
This is particularly bad because the x is sometimes inferred with type Id X instead of X, which prevents other simp lemmas about X from firing.

Making Id reducible instead is not an option, as then the Monad instances would have nothing to key on.

### CODE REVIEW

**Comment by sgraf812** [comment]
This is a rebase of https://github.com/leanprover/lean4/pull/7352. (CC @eric-wieser). In https://github.com/leanprover/lean4/pull/8066#issuecomment-2846327184 Eric writes

> I think the main TODO (other than resolving conflicts) is to think about backwards compatibility and which lemmas should be about Id.run.

I'm content to leave the "think about which lemmas should be about Id.run" for someone else. I'm not sure about back compat. What concrete steps does thinking about that entail?

Also is there a way to at least acknowledge you as co-author (if not as main author)?

**Comment by eric-wieser** [comment]
Thanks!

> Also is there a way to at least acknowledge you as co-author (if not as main author)?

If you merge the PR normally, the individual commits with my name should show up. If you squash merge, then optimistically github will add a Co-authored-by line automatically, or else you can add it yourself.

**Comment by eric-wieser** [comment]
The other thing you could do is directly push to #7352, since maintainers are allowed to write to that branch.

File: src/Init/Data/Array/Monadic.lean [hunk 1]
```diff
@@ -182,11 +182,10 @@ theorem forIn'_eq_foldlM [Monad m] [LawfulMonad m]
...
 @[simp] theorem forIn'_yield_eq_foldl
-    {xs : Array α} (f : (a : α) → a ∈ xs → β → β) (init : β) :
-    forIn' (m := Id) xs init (fun a m b => .yield (f a m b)) =
-      xs.attach.foldl (fun b ⟨a, h⟩ => f a h b) init := by
-  rcases xs with ⟨xs⟩
-  simp [List.foldl_map]
+    {xs : Array α} (f : (a : α) → a ∈ xs → β → Id β) (init : β) :
+    (forIn' xs init (fun a m b => .yield <$> f a m b)).run =
+      xs.attach.foldl (fun b ⟨a, h⟩ => f a h b |>.run) init :=
+  forIn'_pure_yield_eq_foldl _ _
```
Comment (eric-wieser) [inline src/Init/Data/Array/Monadic.lean:188]: To elaborate on my comment elsewhere; I think:
* The old lemma  should be kept and deprecated
* The new lemma should be called `idRun_forIn'_yield_eq_foldl` and `simp`

This applies to pretty much every statement modified in this PR.

File: src/Init/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -2541,18 +2541,18 @@ theorem flatten_reverse {L : List (List α)} :
   induction l generalizing b <;> simp [*]
 
 theorem foldl_eq_foldlM {f : β → α → β} {b : β} {l : List α} :
```
Comment (eric-wieser) [inline src/Init/Data/List/Lemmas.lean:2543]:
```suggestion
theorem foldl_eq_idRun_foldlM {f : β → α → β} {b : β} {l : List α} :
```
etc, keeping the old lemma as deprecated and proving it with the new one.

File: src/Init/Data/Array/Monadic.lean (hunk 1 above)
Comment (sgraf812) [reply src/Init/Data/Array/Monadic.lean:188]: Some existing lemmas follow the naming scheme `id_run_*` (`Array.id_run_foldlM`); others follow the naming scheme `*_id`:

```
@[simp]
theorem findM?_id (p : α → Id Bool) (as : List α) :
    (findM? p as).run = as.find? (p · |>.run) :=
  findM?_pure _ _
```

Should I change these as well? To which naming scheme? The former is more "post-order traversal", the latter is more "in-order traversal". As a user, I think I would have an easier time finding the latter, but of course it depends on whether I have `Id.run *` or `*.run`, so YMMV.

Comment (eric-wieser) [reply src/Init/Data/Array/Monadic.lean:188]: That lemma is not an "existing lemma", the `.run` was added in this PR. So I'm pretty convinced we should be adding "run" to these names.

I think the `id_run` name (vs `idRun`) is a pretty weird reading of the naming convention, but since the concern is cosmetic I'll let someone else at the fro decide.

> of course it depends on whether I have Id.run * or *.run, so YMMV.

My guess would be that the former tends to be less confusing, and so in a separate PR it would make sense to tell the delaborator not to use dot notation

Comment (sgraf812) [reply src/Init/Data/Array/Monadic.lean:188]: In conversation with Markus, Paul and Kim, we decided on adopting the `idRun_*` naming convention :+1:

I pushed to #7352 for Kim to take over and will close this PR. Sorry about the chaos :sweat_smile:

**Comment by sgraf812** [comment]
I pushed to https://github.com/leanprover/lean4/pull/7352 for Kim to take over and closed this PR. Sorry about the chaos 😅

**Comment by eric-wieser** [comment]
Thanks for championing it!
